Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
scopolamine / citalopram / peanut
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting, abd pain and SOB
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old Female with a history of Hodgkin's Disease in 
remission for ___ years, s/p autologous stem cell transplant, 
hypothyroidism who presents with chills, nausea/vomiting, 
diffuse abdominal pain, diarrhea, dyspnea, cough, for a day 
along with syncope in the shower on the day of presentation. The 
patient has been in good health recently and while in the shower 
on the day of presentation felt weak and she fell to her knees 
in the shower. She denies LOC or head strike. The fall was 
unwitnessed.

Initial vital signs in the ___ ED, 99.5, 92, 118/78, 20, 99% 
She received 3L of IV fluids, albuterol. She underwent a CTA 
Torso which did not demonstrate any source of infection. She 
subsequently required supplemental oxygen via nasal cannula.
 
Past Medical History:
Hodgkin's Disease
s/p autologous stem cell transplant
Hypothyroidism
GERD
Depression/Anxiety
Obesity
 
Social History:
___
Family History:
Mother: DM, ___, Hypertension
Father: ___?
 
Physical Exam:
ROS:
 GEN: + fevers, + Chills, - Weight Loss
 EYES: - Photophobia, - Visual Changes
 HEENT: - Oral/Gum bleeding
 CARDIAC: - Chest Pain, - Palpitations, - Edema
 GI: + Nausea, + Vomiting, + Diarrhea, - Abdominal Pain, - 
Constipation, - Hematochezia
 PULM: + Dyspnea, + Cough, - Hemoptysis
 HEME: - Bleeding, - Lymphadenopathy
 GU: - Dysuria, - hematuria, - Incontinence
 SKIN: - Rash
 ENDO: - Heat/Cold Intolerance
 MSK: - Myalgia, - Arthralgia, - Back Pain
 NEURO: - Numbness, - Weakness, - Vertigo, - Headache
Remainder of 10-point ROS negative except as above
 

PHYSICAL EXAM:

VSS: 99.2, 130/85, 112/, 24, 95%2LNC
 GEN: NAD
 Pain: ___
 HEENT: EOMI, MMM, - OP Lesions
 PUL: CTA B/L
 COR: RRR, S1/S2, - MRG
 ABD: diffusely tender, worst RLQ with +Rofsing's sign, ND, + 
rebound, - guarding, +BS, - CVAT
 EXT: - CCE
 NEURO: CAOx3, Non-Focal
 
Pertinent Results:
___ 08:30PM BLOOD WBC-23.6* RBC-4.41 Hgb-13.4 Hct-40.8 
MCV-93 MCH-30.4 MCHC-32.8 RDW-13.2 RDWSD-45.0 Plt ___
___ 08:30PM BLOOD Neuts-84.6* Lymphs-9.0* Monos-4.0* 
Eos-1.4 Baso-0.3 Im ___ AbsNeut-19.94* AbsLymp-2.12 
AbsMono-0.94* AbsEos-0.33 AbsBaso-0.06
___ 08:30PM BLOOD Glucose-117* UreaN-6 Creat-0.9 Na-139 
K-3.7 Cl-103 HCO3-23 AnGap-13
___ 08:30PM BLOOD TSH-PND
___ 08:30PM BLOOD Free T4-PND
___ 09:00PM BLOOD Lactate-2.6*
___ 10:50PM URINE Color-Straw Appear-Clear Sp ___
___ 10:50PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 10:50PM URINE RBC-1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-3
___ 10:50PM URINE Mucous-FEW*
___ 10:50PM URINE UCG-NEG
___ 12:30AM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

___ 8:30 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

 
___ 10:50 pm URINE

   URINE CULTURE (Pending):

CTA CHEST  Study Date of ___ 2:38 AM  
IMPRESSION: 
1. No acute intra-abdominal or intrathoracic process. No 
evidence of 
pulmonary embolism. 
2. 6 mm right lower lobe pulmonary nodule. Recommend attention 
on future 
follow-up exams. 

CHEST (PORTABLE AP) Study Date of ___ 11:17 ___ 
IMPRESSION: No acute intrathoracic process. 
 
 
ECG Study Date of ___  7:04:13 ___ 
  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
107 137 98 ___ 
 

Discharge Labs:

___ 06:52AM BLOOD WBC-12.9* RBC-3.91 Hgb-11.9 Hct-35.9 
MCV-92 MCH-30.4 MCHC-33.1 RDW-13.3 RDWSD-45.1 Plt ___
___ 07:50AM BLOOD Neuts-81.2* Lymphs-10.7* Monos-5.2 
Eos-2.1 Baso-0.2 Im ___ AbsNeut-15.64* AbsLymp-2.07 
AbsMono-1.00* AbsEos-0.41 AbsBaso-0.03
___ 06:52AM BLOOD Glucose-84 UreaN-6 Creat-0.8 Na-139 K-3.7 
Cl-102 HCO3-22 AnGap-15
___ 07:50AM BLOOD CRP-19.0*
 
Brief Hospital Course:
1. Gastroenteritis
- S/P IVF, nausea meds with improvement in n/v/d and persistent 
mild stomach cramps.
- No obvious bacterial source given UA benign, CTA Torso without 
pneumonia or perinephric stranding or abscess
- did not give antibiotics as no obvious source was found or if 
patient becomes unstable, in which case broad spectrum 
antibiotics given s/p transplant.
- Transplant ID consulted - felt her illness was unlikely 
related to Hodgkins as she has been in remission for years and 
is off immunosuppressants.
- leukocytosis resolved during hospitalization
- advised to avoid marijuana due to risk of hyperemesis

2. Asthma attack
- developed mild wheezing consistent with prior asthma 
exacerbations
- started on duonebs q4-6. 
- never had oxygen requirement
- discharging with nebs, 4 days of prednisone and outpt followup 
with PCP/ ___ clinic

3. Hypothyroidism
- Continue levothyroxine

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
2. Levothyroxine Sodium 88 mcg PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 
4. Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Albuterol 0.083% Neb Soln 1 NEB IH Q4H Bronchospasm 
RX *albuterol sulfate [ProAir HFA] 90 mcg 1 NEB by mouth every 4 
hours Disp #*1 Inhaler Refills:*5 
2.  DICYCLOMine 20 mg PO QID:PRN for stomach cramps 
RX *dicyclomine 20 mg 1 tablet(s) by mouth every 4 hours Disp 
#*20 Tablet Refills:*0 
3.  Ipratropium Bromide Neb 1 NEB IH Q6H 
RX *Atrovent HFA 17 mcg/actuation 1 NEB by mouth every 6 hours 
Disp #*1 Inhaler Refills:*5 
4.  PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth every morning Disp #*8 
Tablet Refills:*0 
5.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
6.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate  
7.  Levothyroxine Sodium 88 mcg PO DAILY  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Asthma exacerbation
Viral gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with nausea, vomiting, 
diarrhea, belly pain and shortness of breath. Your symptoms are 
likely due to gastroenteritis and asthma. We treated you with IV 
fluids, nausea and asthma medications. Once you leave the 
hospital you can continue to take an albuterol inhaler as needed 
as well as prednisone once daily for the next 4 days. You should 
follow up with your PCP. 
 
Followup Instructions:
___